US05536737
c) (S)-2-[[(S)-2-(Hydroxy-2-(p-methoxyphenoxy)ethyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide
4N Hydrochloric acid (1,4-dioxane solution, 50 ml) was added to (S)-1-(tert-butoxycarbonyl)-2-[1-hydroxy-2-(p-methoxyphenoxy)ethyl]pyrrolidine (8.03 g), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated and the residue was reacted, in the same manner as in Example 3-a), with N-(benzylaminocarbonyl)-L-proline obtained by stirring L-proline (2.63 g), benzyl isocyanate (2.58 g) and triethylamine (2.31 g) in DMF (25 ml) at room temperature for 1 hour to give the title compound (6.31 g).

reactant | Hydrochloric acid | 4N, 50 ml | Cl | ClH
reactant | (S)-1-(tert-butoxycarbonyl)-2-[1-hydroxy-2-(p-methoxyphenoxy)ethyl]pyrrolidine | 8.03 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=C(C=C1)OC)O | C18H27NO5
reactant | L-proline | 2.63 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | benzyl isocyanate | 2.58 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.31 g | C(C)N(CC)CC | C6H15N
product | (S)-2-[[(S)-2-(Hydroxy-2-(p-methoxyphenoxy)ethyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 6.31 g | OC(C[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1)OC1=CC=C(C=C1)OC | C26H33N3O5
